US04318917
b. 4,5-Bis(4-fluorophenyl)-2-[2,2,2-trifluoro-1-(trifluoromethyl)ethylidene]-2H-pyrrole (Example 17)
A mixture of 4.2 g (0.01 mole) of 4,5-bis(4-fluorophenyl)-α,α-di(trifluoromethyl)-1H-pyrrole-2-methanol and 100 ml acetic anhydride was heated at reflux under nitrogen for 3 hours. The mixture was cooled and concentrated under vacuum. The residue was purified by column chromatography on 400 g of silica gel. Eluted with 50/50 hexane/toluene was 4,5-bis(4-fluorophenyl)-2[2,2,2-trifluoro-1-(trifluoromethyl)-ethylidene]-2H-pyrrole, obtained after recrystallization from hexane as a yellow-orange solid, 1.8 g (45%), m.p. 145°-146°. The ir and nmr (proton and fluorine) spectra were consistent with the assigned structure.

reactant | 4,5-bis(4-fluorophenyl)-α,α-di(trifluoromethyl)-1H-pyrrole-2-methanol | 0.01 mole, 4.2 g | FC1=CC=C(C=C1)C=1C=C(NC1C1=CC=C(C=C1)F)C(O)(C(F)(F)F)C(F)(F)F | C19H11F8NO
solvent | acetic anhydride | 100 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 4,5-Bis(4-fluorophenyl)-2-[2,2,2-trifluoro-1-(trifluoromethyl)ethylidene]-2H-pyrrole | FC1=CC=C(C=C1)C1=CC(N=C1C1=CC=C(C=C1)F)=C(C(F)(F)F)C(F)(F)F | C19H9F8N
